US05232917
3α-pentafluoropropionyloxy-5α-pregnan-20-one
To an ice-cooled, stirred mixture of 3α-hydroxy-5α-pregnan-20-one (260 mg, 318.5 g/m, 0.82 mmol), triethylamine (0.17 mL), and 4-dimethylaminopyridine (DMAP catalytic, 10 mg, 122.17 g/m, 82 umol) dissolved in 17 mL of dry dichloromethane under a nitrogen atmosphere was added pentafluoropropionyl chloride (168 mg, 182.5 g/m 0.92 mmol). The reaction was stirred at 0° C. for 10 hours and then poured into 100 ml of 10% HCl and 200 ml of ether. The organic phase was washed once more with acid, twice with saturated sodium bicarbonate, and then dried over magnesium sulfate. After removal of solvent in vacuo, the crude product was purified by filtration through a bed of silica gel with hexane/ethyl acetate (15:35) elution. The product was isolated from the two earliest fractions (100 mL each) to give (330 mg, 464.5 g/m, 0.71 mmol, 87%).

reactant | 3α-hydroxy-5α-pregnan-20-one | 0.82 mmol, 260 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | triethylamine | 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | pentafluoropropionyl chloride | 0.92 mmol, 168 mg | FC(C(=O)Cl)(C(F)(F)F)F | C3ClF5O
reactant | HCl | 100 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 82 umol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3α-pentafluoropropionyloxy-5α-pregnan-20-one | FC(C(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C(F)(F)F)F | C24H33F5O3
